US08389555B2
4-phenyl-N-(4-(propyl-(4,5,6,7-tetrahydrobenzo [d]thiazol-6-yl)amino)butyl)piperidine-1-carboxamide (64)
A solution of 713 mg (2.6 mmol) N-(4-oxobutyl)-4-phenylpiperidine-1-carboxamide and 395 mg (2 mmol) propyl-(4,5,6,7-tetrahydro-benzothiazol-6-yl)-amine in 1,2-dichloroethane (20 mL) is stirred for about 30 minutes. Then 0.75 g (3 mmol) of sodium triacetoxyborohydride is added and the mixture is stirred overnight. After hydrolysation with 30 mL of 1N aqueous NaOH solution the organic phase is separated, dried over sodium sulfate and concentrated in vacuum. The crude product obtained is purified via column chromatography on silica gel.

reactant | N-(4-oxobutyl)-4-phenylpiperidine-1-carboxamide | 2.6 mmol, 713 mg | O=CCCCNC(=O)N1CCC(CC1)C1=CC=CC=C1 | C16H22N2O2
reactant | propyl-(4,5,6,7-tetrahydro-benzothiazol-6-yl)-amine | 2 mmol, 395 mg | C(CC)NC1CC2=C(N=CS2)CC1 | C10H16N2S
reactant | sodium triacetoxyborohydride | 3 mmol, 0.75 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | 1,2-dichloroethane | 20 mL | ClCCCl | C2H4Cl2
product | 4-phenyl-N-(4-(propyl-(4,5,6,7-tetrahydrobenzo [d]thiazol-6-yl)amino)butyl)piperidine-1-carboxamide | Yield: 34% | C1(=CC=CC=C1)C1CCN(CC1)C(=O)NCCCCN(C1CC2=C(N=CS2)CC1)CCC | C26H38N4OS
